US05756764
Assay of the effect of lactacystin (β-lactone form) on the proteasome dependent p105 to p50 processing in vivo.
COS cells were plated onto 100 mm dishes, then, with DEAE-Destran, either mock transfected, or transfected with 3 μg of pcDNA plasmid containing the human p105 cDNA. Forty-eight hrs after transfection, cells were pretreated for 1 hour with 0.5% DMSO, 50 μM calpain inhibitor II, 50 μM MG132, or 10 μM β-lactone. Cells were then pulse labelled with 250 uCi/plate of 35S-methionine/cysteine for 15 minutes, and either harvested immediately or followed by a 2 hour chase with excess unlabelled methionine and cysteine. Cells were then lysed with SDS/Tris, and proteins were immunoprecipitated with anti-p50 antibodies (recognize the N-terminal half of the p105 protein). These proteins were then separated on a 10% SDS-polyacrylamide gel, which was then fixed, dried, and exposed to autoradiographic film.

reactant | MG132 | 50 μM | CC(C)C[C@@H](C=O)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CC(C)C)NC(=O)OCC=1C=CC=CC1 | C26H41N3O5
reactant | methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | SDS Tris | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+].C(C(CO)(CO)N)O
solvent | DMSO | CS(=O)C | C2H6OS
product | lactacystin | C[C@@H]1[C@@H]([C@](NC1=O)([C@H](C(C)C)O)C(=O)SC[C@@H](C(=O)O)NC(=O)C)O | C15H24N2O7S
